////////////////////////////
// Single rram experiment //
// v0.1 28/09/2017        //
////////////////////////////

simulator lang=spectre
global 0 vdd! vss!

// Including parsed model. Original: '/opt/technology/tsmc40nm_18/models/spectre/toplevel.scs'
// top_localmconly top_tt
// include "/opt/technology/tsmc40nm_18/models/spectre/toplevel.scs" section=top_localmconly
include "/opt/technology/tsmc40nm_18/tsmcN40/../models/spectre/toplevel.scs" section=top_localmconly

include "ommit/arizona_rram_cells.scs"
include "ommit/loads_subcircuit.scs"
include "nominal_simulation.scs"

// Parameters
parameters

// simulation
+ p_sim_time=30n + p_write_length
// + p_max_step=10p
+ p_max_step=1000p
// temperature
+ p_T0=300
+ p_temp=(p_T0-273.15) // in celsius

// rram initial state
// Roff->Ron For set (3.68M)
// + p_rram_gap_ini=1.367e-9
// + p_rram_gap_ini_0=0.2e-9
// + p_rram_gap_ini_1=0.1367e-9

+ p_rram_gap_ini_7=1.7e-9
// + p_rram_gap_ini_6=1.65e-9
+ p_rram_gap_ini_5=1.6e-9
// + p_rram_gap_ini_4=1.55e-9
+ p_rram_gap_ini_3=1.5e-9
// + p_rram_gap_ini_2=1.45e-9
// + p_rram_gap_ini_1=1.4e-9

+ p_rram_gap_ini_0=1.367e-9

// aux_resistance
// + p_r0=120k // 1M
+ p_r0=36k     // 350k

// vdd
+ p_vdd=1.8
// write pulse
+ p_up=5n p_fall=5n p_delay=10n p_write_length=100n
// write amp nominal
+ p_v_set=1.8 // fom simulations
// + p_v_set=1.7 // fom simulations
+ p_v_th=1.6 // fom simulations
+ p_write_amp=2*p_v_set
+ p_comp_v_tol = 0.1

// transistor
+ p_tx_p_l=40n
// + p_tx_p_w=120n
+ p_tx_p_w=5u

// level
+ p_level=1

// voltage supply
VDD      ( vdd!     0 ) vsource dc=p_vdd type=dc
VSS      ( vss!     0 ) vsource dc=0     type=dc

// write voltage (pulse)
V0 (n_write 0) vsource type=pulse delay=p_delay val0=0 val1=p_write_amp rise=p_up fall=p_fall width=p_write_length

// set characterization voltage
// Vcar (n_write 0) vsource type=pulse delay=p_delay val0=0 val1=p_write_amp rise=p_write_length/2 fall=p_write_length/2 width=p_write_length
// // rram_0 (n_write n_control)  rram_cell_1r rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini
// rram_0 (n_write 0 n_sel)  rram_cell_1t1r rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini


//////////////
// OPTION A //
//////////////
// Memristor
// 1R no parasitics
// rram_0 (n_write n_control_0)  rram_cell_1r_no_parasitics rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini_0
// 1R with parasitics
// rram_0 (n_write n_control_0)  rram_cell_1r rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini_0
// 1T1R with parasitics
rram_0 (n_write n_control_0 n_gate)  rram_cell_1t1r rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini_0
v_aux (n_gate 0) bsource v= v(n_write)>0.5 ? p_vdd : 0

rram_3 (n_write n_control_3 n_gate)  rram_cell_1t1r rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini_3
rram_5 (n_write n_control_5 n_gate)  rram_cell_1t1r rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini_5
rram_7 (n_write n_control_7 n_gate)  rram_cell_1t1r rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini_7

// resistor loads
rl_0 (n_control_0 n_level) resistive_loads

rl_3 (n_control_3 n_level) resistive_loads
rl_5 (n_control_5 n_level) resistive_loads
rl_7 (n_control_7 n_level) resistive_loads

// selector
V_level(n_level 0) vsource type=dc dc=p_level
